US08053438B2
5,6-Dihydro-2H-pyran-3-yl trifluoromethanesulfonate (1.83 g, 7.88 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (2.20 g, 8.67 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloride palladium(ii)complex with dichloromethane (0.193 g, 0.236 mmol), and potassium acetate (1.48 mL, 23.65 mmol) were mixed in dioxane (30 mL) under an argon atmosphere. The reaction mixture was stirred at 80° C. for 17 h. The reaction mixture was cooled to room temperature, diluted with water, and extracted with EtOAc. The organic layer was separated, washed with sat. aqueous sodium chloride, dried over magnesium sulfate, filtered, and concentrated in vacuo. The resulting crude product was purified by silica gel chromatography to give 2-(5,6-dihydro-2H-pyran-3-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane.

reactant | 5,6-Dihydro-2H-pyran-3-yl trifluoromethanesulfonate | 7.88 mmol, 1.83 g | FC(S(=O)(=O)OC=1COCCC1)(F)F | C6H7F3O4S
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 8.67 mmol, 2.20 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | dichloromethane | 0.236 mmol, 0.193 g | ClCCl | CH2Cl2
reactant | potassium acetate | 23.65 mmol, 1.48 mL | C(C)(=O)[O-].[K+]
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 2-(5,6-dihydro-2H-pyran-3-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | O1CC(=CCC1)B1OC(C(O1)(C)C)(C)C | C11H19BO3
